US08022075B2
5-[4-(6-Methylimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole (30)
The procedure of Referential Example 1 was repeated, except that 2-amino-5-methylpyridine (54 mg) and 2-bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone (133 mg), which had been produced in Referential Example 10, were used, to thereby yield the title compound (60 mg).

reactant | 2-amino-5-methylpyridine | 54 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | 2-bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone | 133 mg | BrCC(=O)C1=CC=C(C=C1)C1=CN=CO1 | C11H8BrNO2
product | 5-[4-(6-Methylimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole | 60 mg | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=CN=CO2 | C17H13N3O
